US04981962
Example u: 2,3-Dicyanotetracene
A mixture of 3.5 g of anthracene-2,3-dialdehyde (E. Mallonli et al., Synthesis 1980, page 689), 1.8 g of succinodinitrile, 3 g of K2CO3 and 250 ml of dimethyl sulfoxide is heated with stirring at 60°-70° C. for 30 minutes. It is then cooled to 15° C. and 50 ml of water are added. The precipitate which has been deposited is filtered off and is sublimed at 300° C. Yield 485 mg (12%), λmax : 772 nm.

reactant | anthracene-2,3-dialdehyde | 3.5 g | C1=C(C(=CC2=CC3=CC=CC=C3C=C12)C=O)C=O | C16H10O2
reactant | succinodinitrile | 1.8 g | C(CC#N)C#N | C4H4N2
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | 2,3-Dicyanotetracene | C(#N)C1=CC2=CC3=CC4=CC=CC=C4C=C3C=C2C=C1C#N | C20H10N2
